US07893058B2
Step 3: (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-(5-morpholin-4-yl-pyridin-2-yl)-amine
In the same way as described for compound 90, step 1, using 5,8-dibromo-imidazo[1,2-a]pyrazine (0.4 g, 1.45 mmol), 5-morpholin-4-yl-pyridin-2-ylamine (0.258 g, 1.23 mmol), NaOtBu (0.19 g, 2.04 mmol), Pd2dba3 (0.053 g, 0.058 mmol) and Xantphos (0.067 g, 0.116 mmol) in toluene (6 mL). After removing the solvent in vacuo, the mixture is purified by silica gel column chromatography eluting with 1:4 petroleum ether:ethyl acetate followed by 99:1 DCM:NH3 (7M in MeOH). The title compound is isolated (216.4 mg, 47%). LCMS: Rt 2.16 min (93.2%).

reactant | 5,8-dibromo-imidazo[1,2-a]pyrazine | 1.45 mmol, 0.4 g | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
reactant | 5-morpholin-4-yl-pyridin-2-ylamine | 1.23 mmol, 0.258 g | N1(CCOCC1)C=1C=CC(=NC1)N | C9H13N3O
reactant | NaOtBu | 2.04 mmol, 0.19 g | CC(C)(C)[O-].[Na+]
reactant | Xantphos | 0.116 mmol, 0.067 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.058 mmol, 0.053 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-(5-morpholin-4-yl-pyridin-2-yl)-amine | BrC1=CN=C(C=2N1C=CN2)NC2=NC=C(C=C2)N2CCOCC2 | C15H15BrN6O
